US05952362
(3-Amino-5-chloro-4-methylphenyl) acetonitrile was prepared from (3-chloro-4-methyl-5-nitrophenyl) acetonitrile in a manner similar to that described in Example 2 for the preparation of (3-amino-4-methylphenoxy) acetonitrile from (4-methyl-3-nitrophenoxy) acetonitrile.

reactant | (3-chloro-4-methyl-5-nitrophenyl) acetonitrile | ClC=1C=C(C=C(C1C)[N+](=O)[O-])CC#N | C9H7ClN2O2
reactant | (3-amino-4-methylphenoxy) acetonitrile | NC=1C=C(OCC#N)C=CC1C | C9H10N2O
reactant | (4-methyl-3-nitrophenoxy) acetonitrile | CC1=C(C=C(OCC#N)C=C1)[N+](=O)[O-] | C9H8N2O3
product | (3-Amino-5-chloro-4-methylphenyl) acetonitrile | NC=1C=C(C=C(C1C)Cl)CC#N | C9H9ClN2
